US09371321B2
Step A: tert-Butyl (S)-4-(5-(1-(((benzyloxy)carbonyl)amino)ethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)-3,6-dihydropyridine-1(2H)-carboxylate
The title compound was prepared similar to STEP A in PREPARATION 17 using tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydropyridine-1(2H)-carboxylate and benzyl (S)-(1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)carbamate as starting materials.

reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydropyridine-1(2H)-carboxylate | CC1(OB(OC1(C)C)C=1CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | benzyl (S)-(1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)carbamate | BrC=1C=C2C(=NC1[C@H](C)NC(OCC1=CC=CC=C1)=O)C=CN2C | C18H18BrN3O2
product | tert-Butyl (S)-4-(5-(1-(((benzyloxy)carbonyl)amino)ethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)-3,6-dihydropyridine-1(2H)-carboxylate | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C=2CCN(CC2)C(=O)OC(C)(C)C | C28H34N4O4
